US04855286
(c) 3-Boc-4(S)-Cyclohexylmethyl-2,2-dimethyl-5(R,S)-iodomethyloxazolidine
2.4 g of Boc-2-cyclohexyl-1(S)-oxiran-2(R,S)-ylethylamine, 1.3 g of NaI and 1.1 ml of trimethylsilyl chloride are dissolved in 100 ml of acetonitrile, and the solution is stirred at R.T. for 1.5 h. Then 8.7 ml of a 1M solution of tetrabutylammonium fluoride in THF and 5.3 ml of dimethoxyethane are injected in. The mixture is stirred at R.T. for 2.5 h and then 200 ml of saturated aqueous NaHCO3 solution are added, and the mixture is extracted 3 times with 200 l of MTB. Drying over Na2SO4 and concentration in vacuo is followed by chromatography on silica gel (mobile phase MTB/diisopropyl ether 1:2) resulting in the title compound as a colorless oil.

reactant | Boc-2-cyclohexyl-1(S)-oxiran-2(R,S)-ylethylamine | 2.4 g | C(=O)(OC(C)(C)C)N[C@@H](CC1CCCCC1)C1OC1 | C15H27NO3
reactant | NaI | 1.3 g | [Na+].[I-]
reactant | trimethylsilyl chloride | 1.1 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | 200 ml | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | THF | C1CCOC1 | C4H8O
solvent | dimethoxyethane | 5.3 ml | C(OC)COC | C4H10O2
product | 3-Boc-4(S)-Cyclohexylmethyl-2,2-dimethyl-5(R,S)-iodomethyloxazolidine | C(=O)(OC(C)(C)C)N1C(OC([C@@H]1CC1CCCCC1)CI)(C)C | C18H32INO3
